US08580780B2
7-Chloro-6-(4-methanesulfonylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 380, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 4-methylsulfonylbenzyl bromide to give, after hydrochloride formation by the General Procedure 2-2, the title compound as a white solid. MS (ES+) m/z: 382 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 4-methylsulfonylbenzyl bromide | CS(=O)(=O)C1=CC=C(CBr)C=C1 | C8H9BrO2S
reactant | hydrochloride | Cl | ClH
product | 7-Chloro-6-(4-methanesulfonylbenzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=C(C=C1)S(=O)(=O)C | InChI=1S/C18H20ClNO2S2.ClH/c1-24(21,22)15-5-2-13(3-6-15)12-23-18-16-9-11-20-10-8-14(16)4-7-17(18)19;/h2-7,20H,8-12H2,1H3;1H
